US08754101B2
Intermediate 32: Methyl 5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carboxylate
To a stirred suspension of methyl 2-amino-6-({[(methyloxy)methyl]oxy}methyl)-3-pyridinecarboxylate (496 mg, 2.192 mmol) and sodium bicarbonate (193 mg, 2.302 mmol) in a mixture of methanol (15 mL) and water (7.5 mL) was added chloroacetaldehyde (50% wt. solution in water, 0.311 mL, 2.412 mmol). The mixture was heated to reflux for 2 hours when LCMS indicated that no reaction has occurred. More chloroacetaldehyde (0.311 mL, 2.412 mmol) was added and heating continued for 16 hours when LCMS indicated the reaction to be complete. The mixture was partitioned between ethyl acetate (50 mL) and saturated aqueous sodium bicarbonate (50 mL). The organic phase was separated and the aqueous phase back extracted with ethyl acetate (50 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo to give crude product (450 mg). This material was dissolved in DCM and purified on silica (50 g) using a 0-25% methanol-DCM gradient over 60 min. The appropriate fractions were combined and evaporated in vacuo to give the title compound as an orange oil (386 mg).

reactant | methyl 2-amino-6-({[(methyloxy)methyl]oxy}methyl)-3-pyridinecarboxylate | 2.192 mmol, 496 mg | NC1=NC(=CC=C1C(=O)OC)COCOC | C10H14N2O4
reactant | sodium bicarbonate | 2.302 mmol, 193 mg | C([O-])(O)=O.[Na+]
reactant | chloroacetaldehyde | 2.412 mmol, 0.311 mL | ClCC=O | C2H3ClO
reactant | chloroacetaldehyde | 2.412 mmol, 0.311 mL | ClCC=O | C2H3ClO
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 7.5 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl 5-({[(methyloxy)methyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carboxylate | 386 mg | COCOCC1=CC=C(C=2N1C=CN2)C(=O)OC | C12H14N2O4
